US07572809B2
Similar procedure as described in example 10 was used, starting from 4-chloro-phenol and (1-chloro-5-methyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give [1-(4-chloro-phenoxy)-5-methyl-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 366(MH+).

reactant | 4-chloro-phenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | (1-chloro-5-methyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=C(C=CC=C12)C)NC1=NNC(=C1)C | C14H13ClN4
product | [1-(4-chloro-phenoxy)-5-methyl-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=CC=C(OC2=NC(=CC3=C(C=CC=C23)C)NC2=NNC(=C2)C)C=C1 | C20H17ClN4O
